US04032525
36.5 Ml. of thionyl chloride are added dropwise at 10°-15° C. with stirring and cooling with ice to a solution of 110 g. of 2-(4-methyl-phenoxy)-5-methyl-benzyl alcohol in 78 ml. of pyridine. The mixture is stirred for an additional 1 hour at 10° C. and then diluted with 200 ml. of benzene. Then, 200 ml. of water are carefully added dropwise with ice-cooling. The aqueous phase is separated and the organic phase washed successively with dilute hydrochloric acid, water and saturated sodium bicarbonate solution. The aqueous phases are each extracted once more with benzene. The combined benzene extracts are dried over sodium sulfate and evaporated to dryness in vacuo and there is obtained 3-chloromethyl-4-(4-methyl-phenoxy)-toluene as an oil.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-methyl-phenoxy)-5-methyl-benzyl alcohol | CC1=CC=C(OC2=C(CO)C=C(C=C2)C)C=C1 | C15H16O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3-chloromethyl-4-(4-methyl-phenoxy)-toluene | ClCC=1C=C(C=CC1OC1=CC=C(C=C1)C)C | C15H15ClO
